US06005103
4-Hydroxy-3-[4-methyl-1-(phenylthio)pentyl]-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), 4-methylpentanal (0.584 mL, 5.84 mmol), thiophenol (1.40 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 144-145° C.; 1H NMR (400 MHz, DMSO-d6) δ0.80 (d, 3 H), 0.81 (d, 3 H), 1.07 (m, 1 H), 1.18 (m, 1 H), 1.49 (m, 1 H), 1.89 (m, 1 H), 2.19 (m, 1 H), 4.51 (dd, 1 H), 6.68 (s, 1 H), 7.19 (t, 1 H), 7.29 (t, 2 H), 7.35 (d, 2 H), 7.53 (m, 3 H), 7.76 (m, 2 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | 4-methylpentanal | 5.84 mmol, 0.584 mL | CC(CCC=O)C | C6H12O
reactant | thiophenol | 13.8 mmol, 1.40 mL | C1(=CC=CC=C1)S | C6H6S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[4-methyl-1-(phenylthio)pentyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CCC(C)C)SC1=CC=CC=C1 | C23H24O3S
